US04372893
Under nitrogen, 12.3 g (13.6 mmol) lithium cobalt (I) phthalocyanine x 4.5 THF and 322 mg (2 mmol) O-nitrobenzaldehyde are agitated in 65 ml methanol for 90 hours at 20° C. The green reaction mixture is mixed with 10 ml water; CO2 and air are passed in for 5 min., and the blue precipitate is centrifuged which is washed with ethanol. The centrifugate collected is concentrated, and the residue separated into ether and water. Concentration of the ether phase, dried with sodium sulfate, produces 230 mg (96%) O-amino benzaldehyde.

reactant | THF | C1CCOC1 | C4H8O
reactant | O-nitrobenzaldehyde | 2 mmol, 322 mg | C1=CC=C(C(=C1)C=O)[N+](=O)[O-] | C7H5NO3
reactant | water | 10 ml | O | H2O
reactant | CO2 | C(=O)=O | CO2
solvent | methanol | 65 ml | CO | CH4O
product | O-amino benzaldehyde | 230 mg, 96% | C1=CC=C(C(=C1)C=O)N | C7H7NO
